US06924276B2
Step (a): Preparation of 3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,5-thiazolidinedione
To a stirred solution or partial solution of 2,5-thiazolidinedione (0.010 mol) in tetrahydrofuran (THF) is added neat (or a solution in dichloromethane or THF) (3-methyl-but-2-en-1-yl)-isocyanate (0.010 mol), prepared by allowing (3-methyl-but-2-en-1-yl)amine with 0.33 mol equivalents of triphosgene in dichloromethane optionally in the presence of a tertiary amine base or pyridine, and the mixture is stirred. Reaction progress may be followed by thin layer chromatography (TLC) or high performance liquid chromatography (HPLC). When a sufficient amount of desired product is formed, the mixture (or, optionally, the residue which is obtained after first rotary evaporating off the reaction solvent) is partitioned between ethyl acetate and an excess of about 0.1 M hydrochloric acid. The organic layer is washed with brine, dried over sodium sulfate, and rotary evaporated to give 3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,5-thiazolidinedione, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 2,5-thiazolidinedione | 0.010 mol | S1C(NCC1=O)=O | C3H3NO2S
reactant | (3-methyl-but-2-en-1-yl)-isocyanate | 0.010 mol | CC(=CCN=C=O)C | C6H9NO
reactant | (3-methyl-but-2-en-1-yl)amine | CC(=CCN)C | C5H11N
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,5-thiazolidinedione | CC(=CCNC(=O)N1C(SC(C1)=O)=O)C | C9H12N2O3S
